US08383643B2
2-(3-(2-(4-(4-Fluorophenyl)spiro[chromene-2,4′-piperidine]-1′-yl)thiazol-5-yl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl)acetic acid
Step 3 1′-(5-Bromothiazol-2-yl)-4-(4-fluorophenyl)spiro[chromene-2,4′-piperidine] In a pressure vial, a mixture of 4-(4-fluorophenyl)spiro[chromene-2,4′-piperidine] (233 mg, 0.79 mmol), 2,5-dibromothiazole (279 mg, 1.15 mmol) and K2CO3 (190 mg, 1.38 mmol) was suspended in dry DME (3.5 mL). The reaction mixture was stirred under N2 atmosphere at an external temperature of 110° C. for 2 h. The reaction mixture was allowed to warm up to room temperature, then diluted with DCM, and concentrated in the presence of silica gel. The resulting solid residue was purified by Combiflash™ chromatography (SiO2 (12 g), eluting with 1.5-25% EtOAc/hexanes) to afford the title compound as a foam.

reactant | 1′-(5-Bromothiazol-2-yl)-4-(4-fluorophenyl)spiro[chromene-2,4′-piperidine] | BrC1=CN=C(S1)N1CCC2(CC1)OC1=CC=CC=C1C(=C2)C2=CC=C(C=C2)F | C22H18BrFN2OS
reactant | 4-(4-fluorophenyl)spiro[chromene-2,4′-piperidine] | 0.79 mmol, 233 mg | FC1=CC=C(C=C1)C1=CC2(CCNCC2)OC2=CC=CC=C12 | C19H18FNO
reactant | 2,5-dibromothiazole | 1.15 mmol, 279 mg | BrC=1SC(=CN1)Br | C3HBr2NS
reactant | K2CO3 | 1.38 mmol, 190 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DME | 3.5 mL | COCCOC | C4H10O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(3-(2-(4-(4-Fluorophenyl)spiro[chromene-2,4′-piperidine]-1′-yl)thiazol-5-yl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl)acetic acid | FC1=CC=C(C=C1)C1=CC2(CCN(CC2)C=2SC(=CN2)N2C(N(C=C2)CC(=O)O)=O)OC2=CC=CC=C12 | C27H23FN4O4S
